US04007183
20 g of 2-propoxy-4,6-dihydrazino-s-triazine (melting point 130° C) are dissolved in 200 ml of dimethylacetamide and treated with 32 g of salicyloyl chloride at 10° - 20°, over the course of 30 minutes, whilst stirring and cooling externally. The reaction is exothermic. The homogeneous reaction mixture is stirred for a further 30 minutes at 20° C and is subsequently clarified by filtration and slowly treated with 500 ml of water whilst stirring, whereupon the reaction product precipitates as a white solid. The precipitate is filtered of, washed with water, dried at 80° C and purified by recrystallisation from dioxane. The 2-propoxy-4,6-disalicyloylhydrazino-s-triazine obtained (Stabiliser No. 4) has a melting point of 258°-260° C.

reactant | 2-propoxy-4,6-dihydrazino-s-triazine | 20 g | C(CC)OC1=NC(=NC(=N1)NN)NN | C6H13N7O
reactant | salicyloyl chloride | 32 g | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | 2-propoxy-4,6-disalicyloylhydrazino-s-triazine | C(CC)ONNC1=NC(=NC(=N1)C(C=1C(O)=CC=CC1)=O)C(C=1C(O)=CC=CC1)=O | C20H19N5O5
